US05206229
2-[1-(2-p-Toluenesulphonyloxyethyl)cyclopropyloxy]tetrahydro-4H-pyran (Compound 4)
To a solution of 1-(2-p-toluenesulphonyloxyethyl)cyclopropanol (an intermediate in Preparation 2) (1.30 g) in dichloromethane (15 ml) at room temperature was added dihydropyran (0.88 g, 95%) and pyridinium p-toluenesulfonate (0.1 g). After 5 hours, the reaction solution was diluted with ether (70 ml) and extracted consecutively with water, 5% sodium hydrogen carbonate solution, and brine. After drying and removal of the solvent in vacuo, the product was purified by chromatography (50 g silica gel; 30% ether in petroleum ether as solvent) followed by recrystallisation from hexane to give the title compound as plates, m.p. 56°-57° C. (Found C, 59.99; H, 7.13; S 9.37. C17H24O5S requires C, 59.98; H, 7.11; S 9.42%), δ (100 MHz) 0.5 (2H, m), 0.85 (2H, m), 1.2-2.4 (8H, m), 3.1-3.9 (4H, m), 4.55 (1H, m), 7.6 (3H, m), 7.9 (2H, m).

reactant | 1-(2-p-toluenesulphonyloxyethyl)cyclopropanol | C1(=CC=C(C=C1)S(=O)(=O)OCCC1(CC1)O)C | C12H16O4S
reactant | dihydropyran | 0.88 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ether | 70 ml | CCOCC | C4H10O
product | 2-[1-(2-p-Toluenesulphonyloxyethyl)cyclopropyloxy]tetrahydro-4H-pyran | C1(=CC=C(C=C1)S(=O)(=O)OCCC1(CC1)OC1OCCCC1)C | C17H24O5S
